US06562811B1
To a cold (0° C.) solution of tert-butyl 2-amino-6-[2-(benzyloxy)phenyl]-4-{1-[(tert-butoxycarbonyl)amino]-2-phenylethyl}nicotinate (0.100 g, 0.198 mmol) in THF (1.50 mL) was added dropwise Vitride® (0.500 mL), and the stirring was continued for 2 hrs. The mixture was quenched at 0° C. with saturated aqueous NH4Cl solution, and extracted with ethyl acetate. The separated organic phase was washed with water and brine successively, dried over Na2SO4, filtered and concentrated under reduced pressure. The crude product was purified by column chromatography on silica gel (hexane:ethyl acetate, 1:1) to give tert-butyl-1-{2-amino-6-[2-(benzyloxy)phenyl]-3-formyl-4-pyridinyl}-2-phenylethylcarbamate as a colorless oil (0.044 g, yield; 51%).

reactant | tert-butyl 2-amino-6-[2-(benzyloxy)phenyl]-4-{1-[(tert-butoxycarbonyl)amino]-2-phenylethyl}nicotinate | 0.198 mmol, 0.100 g | NC1=C(C(=O)OC(C)(C)C)C(=CC(=N1)C1=C(C=CC=C1)OCC1=CC=CC=C1)C(CC1=CC=CC=C1)NC(=O)OC(C)(C)C | C36H41N3O5
reactant | Vitride | COCCO[AlH2-]OCCOC.[Na+]
solvent | THF | 1.50 mL | C1CCOC1 | C4H8O
product | tert-butyl-1-{2-amino-6-[2-(benzyloxy)phenyl]-3-formyl-4-pyridinyl}-2-phenylethylcarbamate | 0.044 g, yield; 51% | C(C)(C)(C)OC(NC(CC1=CC=CC=C1)C1=C(C(=NC(=C1)C1=C(C=CC=C1)OCC1=CC=CC=C1)N)C=O)=O | C32H33N3O4
